US04554275
Ten grams of 1-methoxy-4-naphthonitrile was dissolved in 270 ml of benzene, 15.4 grams of aluminum chloride was added thereto, and the mixture was heated to reflux for eighteen hours with stirring. After the reaction was completed, the reaction mixture was partitioned between ethyl acetate and water, the ethyl acetate layer was dried with anhydrous magnesium sulfate, and the solvent was evaporated to afford crude 1-hydroxy-4-naphthonitrile. This was dissolved in 250 ml of dimethyl formamide, 3.39 grams of sodium hydride (50%) was added thereto little by little with ice, cooling and stirring, then 10.21 grams of benzyl bromide was added, and the mixture was stirred for three hours at room temperature. The reaction mixture was subjected to a partition with benzene and water, the benzene layer was dried with anhydrous magnesium sulfate, and the solvent was evaporated therefrom followed by recrystallization of the residue to give 1-benzyloxy-4-naphthonitrile, pale yellow needles, yield 11.85 grams. Nuclear magnetic resonance spectra (CDCl3) δ: 5.20 (2H, s, --CH2 -- Ph).

reactant | 1-methoxy-4-naphthonitrile | Ten grams | COC1=CC=C(C2=CC=CC=C12)C#N | C12H9NO
reactant | aluminum chloride | 15.4 grams | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | benzene | 270 ml | C1=CC=CC=C1 | C6H6
product | 1-hydroxy-4-naphthonitrile | OC1=CC=C(C2=CC=CC=C12)C#N | C11H7NO
